US04616015
Concentrated ammonia (1.5 ml) was added to a stirred solution of 6-(4-acetoxyacetylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.85 g) in methanol (15 ml) and the stirring was continued for 2 hours at room temperature. The resulting precipitates were collected by filtration and recrystallized from 70% aqueous ethanol to give 6-[4-(2-hydroxyacetylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.377 g).

reactant | ammonia | 1.5 ml | N | H3N
reactant | 6-(4-acetoxyacetylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.85 g | C(C)(=O)OCC(=O)NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C14H16N4O4
solvent | methanol | 15 ml | CO | CH4O
product | 6-[4-(2-hydroxyacetylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.377 g | OCC(=O)NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C12H14N4O3
